US07022725B2
To a solution of 3-(5-phenyl-4-isoxazolyl)propan-1-ol (15.00 g) and triethylamine (21.0 ml) in ethyl acetate (500 ml) was gently added methanesulfonyl chloride (9.0 ml) at 0° C., and the mixture was stirred at room temperature overnight. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. A mixture of the residue, sodium cyanide (7.33 g), sodium iodide (13.48 g) and N,N-dimethylformamide (150 ml) was stirred at 70° C. for 5 hr. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 4-(5-phenyl-4-isoxazolyl)butyronitrile (13.47 g, yield 86%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). NMR (CDCl3) δ: 1.91–2.09 (2H, m), 2.36–2.46 (2H, m), 2.78–2.94 (2H, m), 7.44–7.58 (3H, m), 7.64–7.74 (2H, m), 8.22 (1H, s).

reactant | 3-(5-phenyl-4-isoxazolyl)propan-1-ol | 15.00 g | C1(=CC=CC=C1)C1=C(C=NO1)CCCO | C12H13NO2
reactant | triethylamine | 21.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.0 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 4-(5-phenyl-4-isoxazolyl)butyronitrile | 13.47 g, yield 86% | C1(=CC=CC=C1)C1=C(C=NO1)CCCC#N | C13H12N2O
